US07459448B2
4-Dimethylaminomethylene-8-methyl-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-g)
In a manner similar to that described above for 4-dimethylamino-methylene-7-methoxy-3,4-dihydro-1H-benzo[b]azepine-2,5-dione, 7-fluoro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione, 0.64 g of 8-methyl-3,4-dihydro-1H-benzo[b]azepine-2,5-dione was converted to v-g (87%): MS m/z═245 (M+H).

reactant | 4-dimethylamino-methylene-7-methoxy-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | CN(C1C(C2=C(NC(C1=C)=O)C=CC(=C2)OC)=O)C | C14H16N2O3
reactant | 7-fluoro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | FC1=CC2=C(NC(CCC2=O)=O)C=C1 | C10H8FNO2
reactant | 8-methyl-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | 0.64 g | CC=1C=CC2=C(NC(CCC2=O)=O)C1 | C11H11NO2
product | 4-Dimethylaminomethylene-8-methyl-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | CN(C)C=C1C(C2=C(NC(C1)=O)C=C(C=C2)C)=O | C14H16N2O2
